US08703096B2
N-(4-acetyl-2-bromophenyl)-2,2,2-trifluoro-N-methylacetamide (K6).
1-(3-bromo-4-(methylamino)phenyl)ethanone (1.4 g; 6.14 mmol) was dissolved in 15 mL CH2Cl2. The reaction mixture was cooled to 0° C. Trifluoroacetic anhydride and Et3N were added sequentially. The mixture was stirred at RT for 3 hrs, washed with water three times, and dried over Na2SO4. The solvent was removed, and product was dried to afford 1.9 g (yield 96%) of a yellow solid. 1H NMR (300 MHz; CDCl3), δ 8.13 (s, 1H, Ar—H), 7.83 (d, 3JHH=8.8 Hz, 1H, Ar—H), 7.02 (d, 3JHH=8.6 Hz, 1H, Ar—H), 2.91 (s, 3H, NCH3), 2.53 (s, 3H, COCH3).

reactant | 1-(3-bromo-4-(methylamino)phenyl)ethanone | 6.14 mmol, 1.4 g | BrC=1C=C(C=CC1NC)C(C)=O | C9H10BrNO
reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(4-acetyl-2-bromophenyl)-2,2,2-trifluoro-N-methylacetamide | 1.9 g, yield 96% | C(C)(=O)C1=CC(=C(C=C1)N(C(C(F)(F)F)=O)C)Br | C11H9BrF3NO2
